US07176210B2
Preparation of Intermediate 3-Methylaminoazetidine-3-carboxylic Acid Amide, Hydrochloride Salt (I-3A-2c)
To a suspension of 1-benzhydryl-3-methylaminoazetidine-3-carboxylic acid amide (I-3A-2b; 13.5 g, 45.8 mmol) in methanol (90 ml) was added concentrated aqueous HCl (8.0 ml, 96 mol), dropwise, to give a homogeneous solution. After the addition of 20% Pd(OH)2 on carbon (50% water; 4.1 g), the mixture was placed on a Parr® shaker and then reduced (50 psi H2) at room temperature for 7 hours. The mixture was filtered through a pad of Celite®, washing with copious amount of 9:1 methanol/water, and then 9:1 tetrahydrofuran/water until no product eluted (determined with ninhydrin stain). The filtrate was then concentrated, in vacuo, and the residue triturated from diethyl ether to give I-3A-2c (9.3 g, quantitative) as a brown solid: +APcI MS (M+1) 129.9; 1H NMR (400 MHz, CD3OD) δ 4.50 (d, J=12.0 Hz, 2H), 4.43 (d, J=12.9 Hz, 2H), 2.64 (s, 3H).

reactant | 1-benzhydryl-3-methylaminoazetidine-3-carboxylic acid amide | 45.8 mmol, 13.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C(=O)N)NC | C18H21N3O
reactant | HCl | 96 mol, 8.0 ml | Cl | ClH
solvent | methanol | 90 ml | CO | CH4O
catalyst | Pd(OH)2 on carbon | 4.1 g | [OH-].[OH-].[Pd+2]
product | 3-Methylaminoazetidine-3-carboxylic Acid Amide, Hydrochloride Salt | Cl.CNC1(CNC1)C(=O)N | InChI=1S/C5H11N3O.ClH/c1-7-5(4(6)9)2-8-3-5;/h7-8H,2-3H2,1H3,(H2,6,9);1H
